US07060827B2
In a manner analogous to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of (2,5-dimethyl-3-furyl)methylamine (188 mg, 1.5 mmol) and 2,4-dichloro-5-fluoropyrimidine (50 mg, 0.3 mmol) gave 2-chloro-N4-[(2,5-dimethyl-3-furyl)methyl]-5-fluoro-4-pyrimidineamine. The reaction of 2-chloro-N4-[(2,5-dimethyl-3-furyl)methyl]-5-fluoro-4-pyrimidineamine and 3-aminophenol (200 mg, 1.83 mmol) gave N4-[(2,5-dimethyl-3-furyl)methyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine (50 mg, 51%). 1H NMR (CDCl3): δ 2.22 (s, 3H), 2.23 (s, 3H), 4.39 (d, J=5.1 Hz, 2H), 5.24 (br, 1H), 5.90 (s, 1H), 6.52 (d, J=6.6 Hz, 1H), 6.99 (d, J=8.1 Hz, 1H), 7.13 (t, J=8.1 Hz, 1H), 7.29 (s, 1H), 7.71 (m, 2H); 19F NMR (282 MHz, CDCl3): δ −167.84; LCMS: ret. time: 19.83 min.; purity: 96.32%; MS (m/e): 329.05 (MH+).

reactant | 2-chloro-N4-[(2,5-dimethyl-3-furyl)methyl]-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NCC1=C(OC(=C1)C)C)F | C11H11ClFN3O
reactant | 3-aminophenol | 1.83 mmol, 200 mg | NC=1C=C(C=CC1)O | C6H7NO
product | N4-[(2,5-dimethyl-3-furyl)methyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | 50 mg, 51% | CC=1OC(=CC1CNC1=NC(=NC=C1F)NC1=CC(=CC=C1)O)C | C17H17FN4O2
